US07696231B2
a) Preparation of methyl 4-{[(4-chlorobenzoyl)amino]methyl}benzoate (Compound C of Scheme 2)
To a stirred solution of methyl 4-(aminomethyl)benzoate (75 g, 0.46 mol) and TEA (315 mL, 2.27 mol) in anhydrous DCM (1.5 L) was added a solution of freshly prepared 4-chloro benzoyl chloride (0.91 mol) in DCM (400 mL). The resulting mixture was allowed to stir for 12 hrs. The reaction was quenched with a 10% aqueous solution of sodium hydrogenocarbonate. The organic layer was washed with a 1.5N HCl solution and water. After drying over MgSO4 and evaporation of the solvent in vacuo, a solid was obtained. Recrystallization form MeOH gave the title compound (80 g) in a 60% yield as a white powder.

reactant | methyl 4-(aminomethyl)benzoate | 0.46 mol, 75 g | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | 4-chloro benzoyl chloride | 0.91 mol | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | DCM | 1.5 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-{[(4-chlorobenzoyl)amino]methyl}benzoate | 80 g, 60% yield | ClC1=CC=C(C(=O)NCC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H14ClNO3
